US07977358B2
[5-(3-Benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(4-morpholin-4-yl-piperidin-1-yl)-methanone
A suspension of 0.080 g (0.24 mmol) of 5-(3-benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid (Example 16C]) in 1.5 ml of CH2Cl2 was treated at RT with 1 drops of DMF. 0.02 ml (0.29 mmol, 1.2 eq) of oxalyl chloride in 0.5 ml CH2Cl2 were added dropwise and stirring was continued for 1 h. The solution was evaporated, redissolved in 1 ml of CH2Cl2, cooled (0° C.) and treated with a solution of 0.041 g (0.24 mmol, 1 eq) of 4-(piperidine-4-yl)-morpholine and 0.07 ml (0.48 mmol, 2 eq) of triethylamine in 0.5 ml of CH2Cl2. The reaction was stirred for 3 h at this temperature, then partitioned three times between EtOAc and aqueous saturated NaHCO3, dried over Na2SO4 and evaporated to give 0.134 g (quant.) of the title compound as light yellow foam. MS: 485.3 (MH+).

reactant | 5-(3-benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid | 0.24 mmol, 0.080 g | O1C(=CC2=C1C=CC=C2)C2=C(C=CC=C2)C2=C(C(=NN2C)C(=O)O)C | C20H16N2O3
reactant | oxalyl chloride | 0.29 mmol, 0.02 ml, 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(piperidine-4-yl)-morpholine | 0.24 mmol, 0.041 g, 1 eq | N1CCC(CC1)N1CCOCC1 | C9H18N2O
reactant | triethylamine | 0.48 mmol, 0.07 ml, 2 eq | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 0.5 ml | C(Cl)Cl | CH2Cl2
product | [5-(3-Benzofuran-2-yl-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(4-morpholin-4-yl-piperidin-1-yl)-methanone | O1C(=CC2=C1C=CC=C2)C2=C(C=CC=C2)C2=C(C(=NN2C)C(=O)N2CCC(CC2)N2CCOCC2)C | C29H32N4O3
